US05102904
Preparation of 4-Bromo-5-(p-chlorophenyl)-1-methoxypyrrole-2,3-dicarbonitrile
Bromine (0.341 g, 0.00213 mol) is added to a stirred mixture of 5-(p-chlorophenyl)-1-methoxypyrrole-2,3-dicarbonitrile (0.5 g, 0.00193 mol) and sodium acetate (0.318 g, 0.00388 mol) in acetic acid. The reaction mixture is heated at 95° C.-100° C. overnight, cooled to room temperature, diluted with water and extracted with ethyl acetate. The combined ethyl acetate extracts are washed sequentially with water saturated sodium bicarbonate solution, aqueous sodium metabisulfite solution, water and brine, dried over anhydrous magnesium sulfate and concentrated in vacuo to yield a solid that is crystallized from ethyl acetate/hexanes to give the title compound as a yellow solid (0.406 g, 62%), mp 166.5° C.-167° C.

reactant | Bromine | 0.00213 mol, 0.341 g | BrBr | Br2
reactant | 5-(p-chlorophenyl)-1-methoxypyrrole-2,3-dicarbonitrile | 0.00193 mol, 0.5 g | ClC1=CC=C(C=C1)C1=CC(=C(N1OC)C#N)C#N | C13H8ClN3O
reactant | sodium acetate | 0.00388 mol, 0.318 g | C(C)(=O)[O-].[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 4-Bromo-5-(p-chlorophenyl)-1-methoxypyrrole-2,3-dicarbonitrile | 0.406 g, 62% | BrC=1C(=C(N(C1C1=CC=C(C=C1)Cl)OC)C#N)C#N | C13H7BrClN3O
